US08053440B2
A solution of 4-(4-formyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (1.3 g, 4.47 mmol) in THF (50 mL) was mixed with LAH (0.7 g, 17.87 mmol) and stirred at reflux for 14 h. The reaction was quenched at room temperature by adding KOH aqueous (14 N, 20 mL). The supernatant was decanted and combined with DCM washings, then diluted with water (50 mL). The mixture was extracted with DCM (3×50 mL) followed by concentration using a rotary evaporator to give [4-(4-methyl-piperazin-1-yl)-phenyl]-methanol (0.82 g, 89%). To a solution of DMSO (0.56 mL, 7.96 mmol) in DCM (50 mL) at −78° C. was added oxalyl chloride (0.7 mL, 7.96 mmol) and the resulting mixture was stirred at −78° C. for 0.5 h. A solution of [4-(4-methyl-piperazin-1-yl)-phenyl]-methanol (0.82 g, 3.98 mmol) in DCM (20 mL) was slowly added. The reaction was stirred at −78° C. for 1.5 h. Triethylamine (1.7 mL, 11.94 mmol) was added and the reaction was allowed to gradually warm up to room temperature. After stirring for 4 h the reaction was quenched by adding sodium bicarbonate aqueous (1 N, 50 mL). The mixture was extracted with DCM (3×50 mL) followed by concentration to afford a residue, which was further purified by column chromatography to yield 4-(4-methyl-piperazin-1-yl)-benzaldehyde (0.5 g, 61%).

reactant | 4-(4-formyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 4.47 mmol, 1.3 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=O | C16H22N2O3
reactant | LAH | 17.87 mmol, 0.7 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | [4-(4-methyl-piperazin-1-yl)-phenyl]-methanol | 0.82 g, 89% | CN1CCN(CC1)C1=CC=C(C=C1)CO | C12H18N2O
